* Single slope adc
*.include lib/lmx58_lm2904.lib
.include adc.lib

* Parameters

.param vdd=3.3
.param vss=0
.param per={1u}
.param rise={per/5}

* Supplies / References

vdd   vdd   gnd {vdd}
vin   vin   gnd  1
vref  vref  gnd -1

* Control Signals

vclk     clock   gnd PULSE({vss} {vdd} {per/2}  {rise} {rise} {per/2} {per})
vrestart restart gnd PULSE({vss} {vdd} {per*10} {rise} {rise} {per}   {per*256})
vresetn  resetn  gnd PWL(0 {vss}, {per*8}, {vss}, {per*8.2}, {vdd})

* DUT

*xcore vin vref comp_out restart resetn vdd gnd ADC_CORE r=250 c={330n}
xadc vin vref clock resetn restart d7 d6 d5 d4 d3 d2 d1 d0 vdd gnd ADC vdd={vdd} vss={vss}

r7 d7 gnd 1k
r6 d6 gnd 1k
r5 d5 gnd 1k
r4 d4 gnd 1k
r3 d3 gnd 1k
r2 d2 gnd 1k
r1 d1 gnd 1k
r0 d0 gnd 1k

.options TRTOL=1.0 CHGTOL=1e-16 ; switches near caps

.tran 10n 550u uic

.end
